US06521754B2
4-Dipropylsulfamoyl-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide
To a suspension of 4-dipropylsulfamoyl-benzoic acid (185 mg, 0.65 mmol) in toluene (10 ml) was added thionylchloride (600 mg, 5 mmol) and the mixture heated to 80° C. for 17 h. After cooling the solvent was evaporated and the resudue was taken up in THF (20 ml), 2-amino-4-methoxy-7-phenyl-benzothiazole (128 mg, 0.5 mmol), triethylamine (105 μl, 0.75 mmol), and DMAP (6 mg, 0.05 mmol) were then added and the mixture was stirred for 1 hour at r.t. followed by 1 hour at 60° C. After cooling to r.t. the reaction mixture was quenched by addition of 10% aq. Na2CO3 solution (30 ml) and EtOAc (30 ml) and vigorous stirring. After separation of the phases the aqueous phase was extracted with EtOAc (30 ml) and the combined orgainc phases were washed with 10% aq. Na2CO3, dried with Na2SO4, filtered and evaporated. The residue was then chromatographed over SiO2 (Merck 230-400 mesh) eluting with a gradient of cyclohexane/EtOAc from (1:4) to 100% EtOAc. After pooling and evaporation of the product fractions the title compound was obtained as a white solid (240 mg, 92% yield), MS: m/e=524.2 (M+H+).

reactant | 4-dipropylsulfamoyl-benzoic acid | 0.65 mmol, 185 mg | C(CC)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)CCC | C13H19NO4S
reactant | thionylchloride | 5 mmol, 600 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-4-methoxy-7-phenyl-benzothiazole | 0.5 mmol, 128 mg | NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H12N2OS
reactant | triethylamine | 0.75 mmol, 105 μl | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 0.05 mmol, 6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Dipropylsulfamoyl-N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide | 240 mg, 92% yield | C(CC)N(S(=O)(=O)C1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3=CC=CC=C3)OC)C=C1)CCC | C27H29N3O4S2
